US09284306B2
1B. (S)-tert-Butyl 5-(benzyloxymethyl)-2-oxooxazolidin-3-ylcarbamate
To a solution of (S)-3-amino-5-(benzyloxymethyl)oxazolidin-2-one (2.06 g, 9.27 mmol) in dry THF (20 mL), di-tert-butyl dicarbonate (5.06 g, 23.17 mmol) was added and the mixture was stirred at 60° C., under nitrogen, for 6 h. Solvent was evaporated and AcOEt was added. The solution was washed with water, dried over Na2SO4 and the solvent evaporated under reduced pressure. The crude was purified by flash silica-gel chromatography (DCM/MeOH=200:1). Two products were isolated as white solid: the title compound (1.547 mg, 4.80 mmol) and (S)-ditert-butyl 5-(benzyloxymethyl)-2-oxooxazolidin-3-ylcarbamate (829 mg, 1.962 mmol). Yield=52% (Title compound).

reactant | (S)-3-amino-5-(benzyloxymethyl)oxazolidin-2-one | 9.27 mmol, 2.06 g | NN1C(O[C@@H](C1)COCC1=CC=CC=C1)=O | C11H14N2O3
reactant | di-tert-butyl dicarbonate | 23.17 mmol, 5.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-tert-Butyl 5-(benzyloxymethyl)-2-oxooxazolidin-3-ylcarbamate | 4.80 mmol, 1.547 mg | C(C1=CC=CC=C1)OC[C@@H]1CN(C(O1)=O)NC(OC(C)(C)C)=O | C16H22N2O5
